US06762281B2
A solution of commercial 4-(hydroxymethyl)benzoic acid (1.52 g, 10.0 mmol) in pyridine (50 mL) is treated with 4,4′-dimethoxytrityl chloride (3.73 g, 11.0 mmol) overnight at room temperature and concentrated to an oil in vacuo. The residue is dissolved in a mixture of MeOH and CH2Cl2 (95:5, v/v; 200 mL) and washed with 2 M aqueous triethylammonium acetate (5×20 mL). The organic solution is evaporated, re-dissolved in CH2Cl2, dried over Na2SO4, and evaporated to give crude triethylammonium 4-[[(4,4′-dimethoxytrityl)oxy]methyl]-benzoate in quantitative yield (1016 mg).

reactant | 4-(hydroxymethyl)benzoic acid | 10.0 mmol, 1.52 g | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 4,4′-dimethoxytrityl chloride | 11.0 mmol, 3.73 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
reactant | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | triethylammonium 4-[[(4,4′-dimethoxytrityl)oxy]methyl]-benzoate | quantitative yield | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OCC2=CC=C(C(=O)[O-])C=C2)C=C1.C(C)[NH+](CC)CC | InChI=1S/C29H26O5.C6H15N/c1-32-26-16-12-24(13-17-26)29(23-6-4-3-5-7-23,25-14-18-27(33-2)19-15-25)34-20-21-8-10-22(11-9-21)28(30)31;1-4-7(5-2)6-3/h3-19H,20H2,1-2H3,(H,30,31);4-6H2,1-3H3
